US07332529B2
Synthesis of 3,5-didecoxybenzyl Chloride
Dry dichloromethane (5 mL), DMF (3.04 mL, 39.2 mmol), and a magnetic stir bar were placed into a 250 mL RBF and sealed with a rubber septum. N2 inlet and outlet needles were inserted into the septum. The flask was then cooled to 0° C. in an ice bath. Thionyl chloride (2.86 mL, 39.2 mmol) was added to the RBF via a syringe. The RBF was placed into an ice bath and cooled to 0° C. 3,5-didecoxybenzyl alcohol (15.0 g, 35.7 mmol) was dissolved in a solution of dichloromethane (60 mL) containing pyridine (2.88 mL, 35.7 mmol). This solution was then drawn into a syringe and added cautiously to RBF over 20 minutes. The solution gradually changed from a transparent yellow color to an opaque yellow color. Dichloromethane was used to rinse the beaker which was used to dissolve 3,5-didecoxybenzyl alcohol and then added to the RBF. The RBF was removed from the ice bath and allowed to stir overnight. The solution was then concentrated using a rotary evaporation. A solution of 50/50 ether/hexanes (100 mL) was added to the RBF, changing the solution from deep yellow to opaque white. The liquid was decanted off leaving behind any solid. The RBF was rinsed in this manner 2 more times, saving the decanted liquid. The decanted liquid was run through a silica gel baseline filtration apparatus. Filtrate was then concentrated using rotary evaporation. A compound solidified after approximately 2 hours under a high vacuum. There was a 14.8 g yield or a 94.5% yield of the derivative. The NMR characterization data for this derivative is as follows. 1NMR (300 MHz, CDCl3): 0.88 (t, J=6.6, 6H, CH2CH3), 1.27-1.43 (m, 28H, CH2(CH2)7), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.92 (t, J=6.6, 4H, OCH2), 4.50 (s, 2H, ArCH2Cl), 6.39 (t, J=2.2, 1H, ArH), 6.50 (d, J=2.5, 2H, ArH). 13C NMR (75 MHZ, CDCl3): 14.23, 22.78, 26.12, 29.30, 29.42, 29.47, 29.70, 32.00, 46.56, 68.18, 101.332, 106.97, 139.38, 160.52.

reactant | DMF | 39.2 mmol, 3.04 mL | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 39.2 mmol, 2.86 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-didecoxybenzyl alcohol | 35.7 mmol, 15.0 g | C(CCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCC | C27H48O3
reactant | pyridine | 35.7 mmol, 2.88 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,5-didecoxybenzyl Chloride | 94.5% yield | C(CCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCC | C27H47ClO2
